US09216173B2
To neat 3-aminotetrahydrofuran-3-carbonitrile (56 g, 500 mmol) was added di-tert-butyl dicarbonate (200 g, 917 mmol). The reaction mixture was heated to reflux. After 2 hours, the reaction mixture was cooled to ambient temperature and concentrated under reduced pressure. The residue was purified via chromatography on silica gel (20% ethyl acetate/petroleum ether) to afford tert-butyl (3-cyanotetrahydrofuran-3-yl)carbamate.

reactant | 3-aminotetrahydrofuran-3-carbonitrile | 500 mmol, 56 g | NC1(COCC1)C#N | C5H8N2O
reactant | di-tert-butyl dicarbonate | 917 mmol, 200 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl (3-cyanotetrahydrofuran-3-yl)carbamate | C(#N)C1(COCC1)NC(OC(C)(C)C)=O | C10H16N2O3
